US08314250B2
Rocky Hill, N.J., 08553, USA: cis-4-(1-methylethyl)-cyclohexanamine.
From SYNCHEM OHG, Felsberg-Altenburg, D-34587, Germany: 1-amino-3-methyladamantane; 2-amino-2-methyladamantane.

reactant | 1-amino-3-methyladamantane | NC12CC3(CC(CC(C1)C3)C2)C | C11H19N
reactant | 2-amino-2-methyladamantane | NC1(C2CC3CC(CC1C3)C2)C | C11H19N
product | cis-4-(1-methylethyl)-cyclohexanamine | CC(C)[C@H]1CC[C@H](CC1)N | C9H19N
